US05387685
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinepentane-nitrile monohydrochloride
To a solution of 1.43 g of α-(3,4-dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinepentanenitrile in 40 mL of diethyl ether, with stirring, is added 0.617 mL of a 4.71M solution of hydrogen chloride in absolute ethyl alcohol. The reaction mixture is then stirred for 15 hours while sealed. The title product is then collected by filtration, washed with ether, and dried under vacuum to give 1.32 g of the desired product as pink crystals.

reactant | α-(3,4-dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinepentanenitrile | 1.43 g | COC=1C=C(C=CC1OC)C(C#N)(CCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C31H36N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | ethyl alcohol | C(C)O | C2H6O
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolinepentane-nitrile monohydrochloride | 1.32 g | Cl.COC=1C=C(C=CC1OC)C(C#N)(CCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | InChI=1S/C31H36N2O4S.ClH/c1-22-7-10-26(11-8-22)38-31(21-32,25-9-12-27(34-2)30(19-25)37-5)14-6-15-33-16-13-23-17-28(35-3)29(36-4)18-24(23)20-33;/h7-12,17-19H,6,13-16,20H2,1-5H3;1H
